US07452911B2
3.59c 2-pyrrolidin-1-yl-ethyl 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2,3-dihydro-indole-1-carboxylate
Prepared according to general working method I from 2-pyrrolidin-1-yl-ethyl 5-iodo-2,3-dihydro-indole-1-carboxylate (120 mg, 0.31 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (80 mg, 0.37 mmol).

reactant | 2-pyrrolidin-1-yl-ethyl 5-iodo-2,3-dihydro-indole-1-carboxylate | 0.31 mmol, 120 mg | IC=1C=C2CCN(C2=CC1)C(=O)OCCN1CCCC1 | C15H19IN2O2
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.37 mmol, 80 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 2-pyrrolidin-1-yl-ethyl 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2,3-dihydro-indole-1-carboxylate | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2CCN(C2=CC1)C(=O)OCCN1CCCC1 | C28H26ClN3O2
